US06013662
52.07 g of iodine, in solution in 250 cm3 of tetrahydrofuran, were added dropwise to a solution of 37.75 g of methyl(3aRS,4SR,7aRS)-2-benzyl-7-hydrazono-4-phenyloctahydroisoindole-3a-carboxylate in 200 cm3 of tetrahydrofuran and 43 cm3 of triethylamine. Stirring was maintained at room temperature for one hour after the end of the addition. 1 dm3 of water and 1 dm3 of ethyl acetate were then added. The organic phase was separated by settling, washed successively with a saturated sodium hydrosulphite solution and then with a saturated sodium chloride solution, and dried over magnesium sulphate. After concentrating the solvent under reduced pressure, the residue was purified by flash chromatography on silica gel (230-400 mesh), elution being carried out with a mixture of cyclohexane and of ethyl acetate (95/5 by volume). 22.25 g (47%) of methyl(3aRS,4SR,7aRS)-2-benzyl-7-iodo-4-phenyl-2,3,3a,4, 5 ,7a-hexahydro-1H-isoindole-3a-carboxylate were thus obtained in the form of a yellow pasty solid, the characteristics of which were as follows:

reactant | iodine | 52.07 g | II | I2
reactant | methyl(3aRS,4SR,7aRS)-2-benzyl-7-hydrazono-4-phenyloctahydroisoindole-3a-carboxylate | 37.75 g | COC(=O)C12CN(CC2C(CCC1C1=CC=CC=C1)=NN)CC1=CC=CC=C1 | C23H27N3O2
reactant | water | 1 dm3 | O | H2O
reactant | ethyl acetate | 1 dm3 | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 250 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 cm3 | O1CCCC1 | C4H8O
solvent | triethylamine | 43 cm3 | C(C)N(CC)CC | C6H15N
product | methyl(3aRS,4SR,7aRS)-2-benzyl-7-iodo-4-phenyl-2,3,3a,4, 5 ,7a-hexahydro-1H-isoindole-3a-carboxylate | 22.25 g, 47% | COC(=O)C12CN(CC2C(=CCC1C1=CC=CC=C1)I)CC1=CC=CC=C1 | C23H24INO2
